US06313153B1
Synthesis of (E)-N-(3,4-dimethoxyphenethyl)-N-methyl-3-(3-pyridyl)-2-propenoic acid amide (Compound 84)
A mixture of methyl trans-3-(3-pyridyl)acrylate (326 mg), 3,4-dimethoxy-N-methylphenethylamine (390 mg), 60% sodium hydride (80 mg) and diethylene glycol dimethyl ether (2 ml) was stirred at room temperature for 24 hours. Water was added to the reaction mixture, extracted with ethyl acetate, washed with water and dried over magnesium sulfate. After the solvent was distilled out under reduced pressure, the residue was purified by silica gel column chromatography (chloroform:methanol=50:1) and recrystallized to yield the titled compound (278 mg, 43%).

reactant | methyl trans-3-(3-pyridyl)acrylate | 326 mg | N1=CC(=CC=C1)/C=C/C(=O)OC | C9H9NO2
reactant | 3,4-dimethoxy-N-methylphenethylamine | 390 mg | COC=1C=C(CCNC)C=CC1OC | C11H17NO2
reactant | sodium hydride | 80 mg | [H-].[Na+]
reactant | diethylene glycol dimethyl ether | 2 ml | COCCOCCOC | C6H14O3
solvent | Water | O | H2O
product | (E)-N-(3,4-dimethoxyphenethyl)-N-methyl-3-(3-pyridyl)-2-propenoic acid amide | 278 mg, 43% | COC=1C=C(CCN(C(\C=C\C=2C=NC=CC2)=O)C)C=CC1OC | C19H22N2O3
